US08633173B2
To a suspension of N-methyl-methanesulfonamide (0.61 g, 5.6 mmol) and potassium carbonate (1.0 g, 7.6 mmol) in Acetone (10 mL) was added 2-bromomethyl-benzonitrile (1.0 g, 5.1 mmol). The mixture was stirred at room temperature for 18 hours. The mixture was diluted with dichloromethane (30 mL), filtered through a plug of diatomaceous earth and evaporated to a yellow waxy solid (1.2 g). N-(2-Cyano-benzyl)-N-methyl-methanesulfonamide was isolated as yellow waxy solid (1.2 g, 100%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.73-7.63 (m, 3H), 7.44 (t, J=7.5 Hz, 1H), 4.56 (s, 2H), 2.95 (s, 3H), 2.84 (s, 3H). MS=225 (MH)+.

reactant | N-methyl-methanesulfonamide | 5.6 mmol, 0.61 g | CNS(=O)(=O)C | C2H7NO2S
reactant | potassium carbonate | 7.6 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-benzonitrile | 5.1 mmol, 1.0 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
solvent | Acetone | 10 mL | CC(=O)C | C3H6O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(2-Cyano-benzyl)-N-methyl-methanesulfonamide | C(#N)C1=C(CN(S(=O)(=O)C)C)C=CC=C1 | C10H12N2O2S
